US04166817
(d) 4-Azido-3-carbethoxy-7-methyl-1,8-naphthyridine
3-Carbethoxy-4-chloro-7-methyl-1,8-naphthyridine (0.8 g; 0.03 M) was dissolved in dry D.M.F. (5 ml) at ambient temperatures and NaN3 (0.5 g; 0.007 M) added. This mixture was stirred for 20 hr. at ambient temperatures and then poured into a large volume (1 l) of H2O. The product (0.64 g; 83%), m.p. 114°-115° C. (dec.), was filtered off, washed with H2O and dried over P2O5 in vacuo (Found: N, 27.49; C, 55.59; H, 4.50%. C12H11N5O2 requires: N, 27.24; C, 56.03; H, 4.28%), νmax (KBr) 3080, 2900, 2142, 1708, 1600, 1550, 1472, 1375, 1268, 1210, 1194, 1050, 1038, 806 cm-1, δ [(CD3)2SO] 1.38 (t), 4.40 (q), (CH3CH2), 2.68 (s), (CH3), 7.5 (d), 8.5 (d), 9.14 (s) (heterocyclic protons), m/e 257 (M+ ; 65%) 229 (M+ --N2 ; 32%), 212 (M+ --OC2H5 ; 15%), 201 (52%), 133 (100%).

reactant | 3-Carbethoxy-4-chloro-7-methyl-1,8-naphthyridine | 0.03 M, 0.8 g | C(=O)(OCC)C=1C=NC2=NC(=CC=C2C1Cl)C | C12H11ClN2O2
reactant | NaN3 | 0.007 M, 0.5 g | [N-]=[N+]=[N-].[Na+]
solvent | H2O | 1 l | O | H2O
product | 4-Azido-3-carbethoxy-7-methyl-1,8-naphthyridine | N(=[N+]=[N-])C1=C(C=NC2=NC(=CC=C12)C)C(=O)OCC | C12H11N5O2
